US04421758
A mixture of a solution of 247 mg of p-fluorophenol in 1 ml of dimethylformamide with 87 mg of 55% sodium hydride was stirred at room temperature for 30 minutes. 537 mg of 2-tosyloxymethyl-3,4-dihydro-2H-pyran were then added to the mixture, which was allowed to react at 90° C. for 3 hours. Thereafter, the mixture was treated and the product purified essentially as described in Example 34(a) to give 102 mg of 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran as a colourless oil.

reactant | p-fluorophenol | 247 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 537 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran | 102 mg | FC1=CC=C(OCC2OC=CCC2)C=C1 | C12H13FO2
